US06630600B1
4-(Benzyloxy)benzaldehyde (3.00 g; 14.0 mmole) and benzyl 2-(2-methoxyethoxy)acetate (4.23 g; 17.0 mmole) were dissolved in dry tetrahydrofuran (100 ml) and cooled to −20° C. Potassium tert-butoxide (1.91 g; 17.0 mmole) dissolved in dry tetrahydrofuran (10 ml) was slowly added and the reaction was stirred over night at −20° C. The reaction was quenched with acetic acid (0.85 g; 14.0 mmole). The crued product was isolated, redissolved in toluene and refluxed over night with p-toluenesulfonic acid (0.24 g; 1.4 mmole) in a Dean-Stark apparatus to separate the water. The solution was cooled, washed with sodium hydrogene carbonate, dried with magnesium sulfate and evaporated. Purification of the crude product with preparativ HPLC (Kromasil C8, 10 μm, 50×500 mm) using acetronitrile (50-70%) in ammonium acetate buffer (pH 7) as mobil phase gave 1.83 g (29% yield) of (Z)-3-[4-(benzyloxy)phenyl]-2-(2-methoxyethoxy)-2-propenoic acid benzyl ester.

reactant | 4-(Benzyloxy)benzaldehyde | 14.0 mmole, 3.00 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | benzyl 2-(2-methoxyethoxy)acetate | 17.0 mmole, 4.23 g | COCCOCC(=O)OCC1=CC=CC=C1 | C12H16O4
reactant | Potassium tert-butoxide | 17.0 mmole, 1.91 g | CC(C)([O-])C.[K+]
reactant | acetic acid | 14.0 mmole, 0.85 g | C(C)(=O)O | C2H4O2
reactant | p-toluenesulfonic acid | 1.4 mmole, 0.24 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (Z)-3-[4-(benzyloxy)phenyl]-2-(2-methoxyethoxy)-2-propenoic acid benzyl ester | 1.83 g, 29% yield | C(C1=CC=CC=C1)OC(/C(=C/C1=CC=C(C=C1)OCC1=CC=CC=C1)/OCCOC)=O | C26H26O5
